US06812229B1
0.40 g of methyl N-(3-acetylbenzyl)carbamate was dissolved in 10 ml of ethanol, and 0.36 g of methoxyamine hydrochloride and 5 ml of an aqueous solution of 0.54 g of sodium acetate were added thereto, followed by reflux under heating for 8 hours. After completion of the reaction, water was added to the reaction mixture, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained crystals were washed with hexane to obtain 0.40 g of methyl N-[3-(1-methoxyiminoethyl)benzyl]carbamate as a pale yellow oily substance.

reactant | methyl N-(3-acetylbenzyl)carbamate | 0.40 g | C(C)(=O)C=1C=C(CNC(OC)=O)C=CC1 | C11H13NO3
reactant | methoxyamine hydrochloride | 0.36 g | Cl.CON
reactant | sodium acetate | 0.54 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-[3-(1-methoxyiminoethyl)benzyl]carbamate | 0.40 g | CON=C(C)C=1C=C(CNC(OC)=O)C=CC1 | C12H16N2O3
